US07919491B2
cis-2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[1-(hydroxymethyl)hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide (E57)
To a solution of cis-2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-[1-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl]-4-(4-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide (D74, 10.5 mg) in dry methanol (1 mL) at 0° C., one drop of concentrated HCl was added. The resulting mixture was stirred at 0° C. for 1.5 hours and then was allowed to reach rt and stirred at this temperature for 2 hours. The solution was then directly charged onto a SCX cartridge (eluting with MeOH and ammonia, 0.5N solution in methanol) to give the desired compound (4.5 mg) as yellow oil.

reactant | cis-2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-[1-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl]-4-(4-fluoro-2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 10.5 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@H]([C@H]2N(CC1)CCC2)CO[Si](C)(C)C(C)(C)C)(C)C)(F)F | C39H49F7N4O2Si
reactant | ammonia | N | H3N
solvent | methanol | 1 mL | CO | CH4O
catalyst | HCl | one drop | Cl | ClH
product | cis-2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(4-fluoro-2-methylphenyl)-6-[1-(hydroxymethyl)hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide | 4.5 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1[C@H]([C@H]2N(CC1)CCC2)CO)(C)C)(F)F | C33H35F7N4O2
